US09278983B2
To a mixture of methyl-(2-nitro-4-trifluoromethylphenyl)-amine (4.40 g) and DMF (20 ml), N-chlorosuccinimide (3.67 g) was added under ice-cooling, and stirred for 3 hours. The mixture was heated to room temperature, and allowed to stand. Water was poured thereinto under ice-cooling, and then the precipitated solid was collected by filtration. The obtained solid was washed with water, and dried to give 3.96 g of (2-chloro-6-nitro-4-trifluoromethylphenyl)-methylamine.

reactant | methyl-(2-nitro-4-trifluoromethylphenyl)-amine | 4.40 g | CNC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C8H7F3N2O2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | N-chlorosuccinimide | 3.67 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | Water | O | H2O
product | (2-chloro-6-nitro-4-trifluoromethylphenyl)-methylamine | 3.96 g | ClC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])NC | C8H6ClF3N2O2
